US06022976
c) 3-(3-Bromo-4-chlorophenyl)thiazolidin-4-one
Thioglycolic acid (8.65 g) and 37% aqueous formaldehyde (4.6 ml) was added to a stirred solution of 3-bromo-4-chloroaniline (9.73 g) in toluene (50 ml). The mixture was heated to reflux and the water collected in a Dean and Stark apparatus. After 3 hours the mixture was cooled, diluted with toluene then washed with aqueous sodium hydroxide and water. The organic layer was dried (MgSO4) and concentrated to give the subtitle compound as a solid.

reactant | Thioglycolic acid | 8.65 g | C(CS)(=O)O | C2H4O2S
reactant | formaldehyde | 4.6 ml | C=O | CH2O
reactant | 3-bromo-4-chloroaniline | 9.73 g | BrC=1C=C(N)C=CC1Cl | C6H5BrClN
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(3-Bromo-4-chlorophenyl)thiazolidin-4-one | BrC=1C=C(C=CC1Cl)N1CSCC1=O | C9H7BrClNOS
